US04696949
In the first stage 19.6 g of desoxybenzoin is alkylated with 15.8 g of 3-bromo-1-chloropropane according to the procedure described in method 1 except that the reaction is carried out at room temperature. Isolation gives an intermediate, 2,3-diphenyl-4,5-dihydro-6H-pyran in quantitative yield, but the product contains about 10% of noncyclic O-alkylation product. The m.p. of a sample which has been chromatographically purified and recrystallized from methanol is 119°-22° C.

reactant | desoxybenzoin | 19.6 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | 3-bromo-1-chloropropane | 15.8 g | BrCCCCl | C3H6BrCl
product | 2,3-diphenyl-4,5-dihydro-6H-pyran | quantitative yield | C1(=CC=CC=C1)C=1OCCCC1C1=CC=CC=C1 | C17H16O
